US04431653
A mixture of 4-[3-(1H-imidazol-1-yl)propyl]-piperidine (1.5 g, 0.0078 M) and dimethylformamide dimethylacetal (10 ml) was heated at 100° C. for 16 hrs. The excess of dimethylformamide dimethylacetal was removed to give 4-[3-(1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde dimethylacetal. To the mixture of 6-aminopenicillanic acid (1.16 g, 0.0053 M) and diisopropylethylamine (1.03 ml) in dry CHCl3 (9 ml) was added the above piperidinecarboxaldehyde in CHCl3 (5 ml) at 0° C. and stirred at that temperature for 1 hr, then at room temperature for 3 hrs. After the reaction, the solvent was removed and the residue dissolved in water (40 ml). The aqueous solution, washed with diethyl ether, was adjusted to pH 3 with dilute aqueous HCl and purified on Sephadex LH 20 column to give [2S-(2alpha,5alpha,6beta)]-6-[[4-[3 -(1H-imidazol-1-yl)propyl]-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid 1.2 mole hydrochloride monohydrate (0.87 g, 39% yield).

reactant | 4-[3-(1H-imidazol-1-yl)propyl]-piperidine | 0.0078 M, 1.5 g | N1(C=NC=C1)CCCC1CCNCC1 | C11H19N3
reactant | dimethylformamide dimethylacetal | 10 ml | COC(N(C)C)OC | C5H13NO2
product | 4-[3-(1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde dimethylacetal | COC(N1CCC(CC1)CCCN1C=NC=C1)OC | C14H25N3O2
